US08076486B2
3-(2-Chloro-phenyl)-5-(2-fluoro-4-iodo-phenylamino)-isonicotinic acid hydrazide
1,1′-carbonyldiimidazole (21 mg, 0.13 mmol) was added to a solution of 3-(2-chloro-phenyl)-5-(2-fluoro-4-iodo-phenylamino)-isonicotinic acid from above (40 mg, 0.09 mmol) in DMSO (1 mL), and stirred overnight at 60° C. Hydrazine hydrate (13 mg, 0.27 mmol) was added, and the reaction solution was stirred for an additional 4 h at 60° C. The reaction solution was quenched with H2O, diluted with EtOAc, and filtered through an Extrelut column. The column was washed with EtOAc, and the filtrate was concentrated. The crude product was purified via Biotage eluting with a gradient of 0 to 70% EtOAc in hexanes to afford the desired product (17 mg, 41%). LC-MS (M+H=483, obsd.=438).

reactant | 1,1′-carbonyldiimidazole | 0.13 mmol, 21 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-(2-chloro-phenyl)-5-(2-fluoro-4-iodo-phenylamino)-isonicotinic acid | ClC1=C(C=CC=C1)C1=C(C(=O)O)C(=CN=C1)NC1=C(C=C(C=C1)I)F | C18H11ClFIN2O2
reactant | Hydrazine hydrate | 0.27 mmol, 13 mg | O.NN
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | 3-(2-Chloro-phenyl)-5-(2-fluoro-4-iodo-phenylamino)-isonicotinic acid hydrazide | 17 mg, 41% | ClC1=C(C=CC=C1)C1=C(C(=O)NN)C(=CN=C1)NC1=C(C=C(C=C1)I)F | C18H13ClFIN4O
